US07935674B2
4-Fluoro-3-(4-methoxyphenylmethyl)-1-(β-D-glucopyranosyl)-indole
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 2-(3) and 4-methoxybenzoyl chloride were treated in a manner similar to Example 3 to give the titled compound as a colorless powder. APCI-Mass m/Z 435 (M+NH4)H. 1H-NMR (DMSO-d6) δ 3.21-3.26 (m, 1H), 3.37-3.46 (m, 3H), 3.63-3.68 (m, 2H), 3.70 (s, 3H), 4.02 (s, 2H), 4.53 (t, J=5.4 Hz, 1H), 5.09 (d. J=5.3 Hz, 1H), 5.15 (d. J=5.0 Hz, 1H), 5.20 (d, J=5.9 Hz, 1H), 5.37 (d, J=9.2 Hz, 1H), 6.74 (dd, J=11.2, 7.9 Hz, 1H), 6.83 (d, J=8.5 Hz, 2H), 7.07 (td, J=8.0, 5.2 Hz, 1H), 7.17 (d, J=8.7 Hz, 2H), 7.19 (s, 1H), 7.35 (d, J=8.4 Hz, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 4-Fluoro-3-(4-methoxyphenylmethyl)-1-(β-D-glucopyranosyl)-indole | FC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC | C22H24FNO6
